US07405210B2
1H-Pyrrolo[3,2-b]pyridine-2-carboxylic acid (2-phenoxyethyl)amide
To a solution of 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid (Preparation 32, 50 mg, 0.31 mmol) in DMF (5 mL), was added 2-phenoxyethylamine (44 μL, 0.34 mmol), DIPEA (118 μL, 0.68 mmol) and HOBt (42 mg, 0.31 mmol) sequentially. The reaction mixture was stirred for 5 min prior to the addition of EDCI (42 mg, 0.22 mmol) in one portion. The resulting mixture was stirred for 20 h at rt and partitioned between ethyl acetate (50 mL) and water (20 mL). The layers were separated and the aqueous phase extracted with ethyl acetate (2×30 mL). The combined organic fractions were washed with brine (20 mL), dried (MgSO4), filtered and concentrated in vacuo to give an oil. Trituration with diethyl ether/isohexane and collection by filtration gave, after air-drying, the title compound as a cream coloured solid. δH (d6 DMSO): 3.48 (2H, m), 4.14 (2H, t), 6.94 (3H, m), 7.17 (1H, dd), 7.28 (3H, m), 7.77 (1H, d), 8.37 (1H, dd), 8.86 (1H, t); m/z (ES+)=282 [M+H]+; RT=2.60 min.

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid | 0.31 mmol, 50 mg | N1C(=CC2=NC=CC=C21)C(=O)O | C8H6N2O2
reactant | 2-phenoxyethylamine | 0.34 mmol, 44 μL | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | DIPEA | 0.68 mmol, 118 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.31 mmol, 42 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.22 mmol, 42 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1H-Pyrrolo[3,2-b]pyridine-2-carboxylic acid (2-phenoxyethyl)amide | O(C1=CC=CC=C1)CCNC(=O)C1=CC2=NC=CC=C2N1 | C16H15N3O2
